US20010020104A1
4 g of 4-methoxy-2′-methylbiphenyl-3-carbaldehyde, 2.66 g of 80% strength hydrazine hydrate solution and 4 g of potassium hydroxide together with 40 ml of triethylene glycol are placed in a reaction vessel and refluxed for 2 hours. The hydrazine hydrate/water mixture is then distilled off until a temperature at the bottom of 195° C. has been reached, and the residue is heated to boiling for a further 4 hours. After cooling to room temperature, 50 ml of water are added and the mixture is extracted three times with 40 ml each time of diethyl ether. Evaporation and distillation using a bulb tube gives 2.8 g (75%) of 2′,3-dimethyl-4-methoxy-biphenyl having a boiling point of 129° C. at 15 torr.

reactant | 4-methoxy-2′-methylbiphenyl-3-carbaldehyde | 4 g | COC1=C(C=C(C=C1)C1=C(C=CC=C1)C)C=O | C15H14O2
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | 4 g | [OH-].[K+]
solvent | triethylene glycol | 40 ml | C(COCCOCCO)O | C6H14O4
product | 2′,3-dimethyl-4-methoxy-biphenyl | 2.8 g, 75% | CC1=C(C=CC=C1)C1=CC(=C(C=C1)OC)C | C15H16O
